US05026874
A mixture of 1-(hex-5-ynyl)-4-n-propyl-2,6,7-trithiabicyclo [2.2.2]octane (1.07 g. 1.0 equivalent), 3-chloroperbenzoic acid (0.80 g., 1.05 equivalent, 85% Lancaster Synthesis), and anhydrous sodium acetate (1.0 g.) in anhydrous acetonitrile was stirred at 20° from 24 hours. The solvent was removed in vacuo and the residue partitioned between water and ethyl acetate. The organic phase was separated, washed with sodium hydrogen carbonate solution and brine before drying over anhydrous magnesium sulphate. The solvent was removed in vacuo and the residue was chromatographed on silica. Elution with hexane: ethyl acetate mixtures (20% 75%) ethyl acetate gave 1-(hex-5-ynyl)-4-n-propyl-2,6,7-trithiabicyclo[ 2.2.2]octane 2-oxide as a colourless solid (0.47 g).

reactant | 1-(hex-5-ynyl)-4-n-propyl-2,6,7-trithiabicyclo [2.2.2]octane | 1.07 g, 1.0 equivalent | C(CCCC#C)C12SCC(CS1)(CS2)CCC | C14H22S3
reactant | 3-chloroperbenzoic acid | 0.80 g, 1.05 equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium acetate | 1.0 g | C(C)(=O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(hex-5-ynyl)-4-n-propyl-2,6,7-trithiabicyclo[ 2.2.2]octane 2-oxide | 0.47 g | C(CCCC#C)C12S(CC(CS1)(CS2)CCC)=O | C14H22OS3
